US05935956
2-(4-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[4,3-h]cinnolin-3(2H)-one
Prepared according to the method described in Example 1 from methyl 5,6,7,8, -tetrahydro-8-oxoisoquinoline-7-acetate (prepared from 5,6-dihydroquinoline-8(7H)-one (Boyd et al, J. Chem. Soc., Perkin Trans. I (1992)31) according to the method of Wu et al supra) and 4-chlorophenylhydrazine.

reactant | tetrahydro-8-oxoisoquinoline-7-acetate | O=C1C(C=CC=2CCNCC12)CC(=O)[O-]
reactant | 5,6-dihydroquinoline-8(7H)-one | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
product | 2-(4-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[4,3-h]cinnolin-3(2H)-one | ClC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=CN=C3 | C17H14ClN3O
